US08669234B2
(1-{6-[5-(4-{6-[2-(4-Cyano-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester-tris-hydrochloride:
4-Cyano-2-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (639 mg, 0.816 mmol) was dissolved in DCM (8 mL) and 4.0 M HCl in dioxane (2 mL, 8 mmol) was added. After stirring for 37 min, the solid was filtered off and rinsed with EtOAc, affording the title compound (597 mg, 92%).

reactant | 4-Cyano-2-{5-[6-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.816 mmol, 639 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CC2(CC2)C1)C(C(C(C)C)NC(=O)OC)=O | C45H50N8O5
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | (1-{6-[5-(4-{6-[2-(4-Cyano-pyrrolidin-2-yl)-3H-imidazol-4-yl]-naphthalen-2-yl}-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester-tris-hydrochloride | 597 mg, 92% | Cl.Cl.Cl.COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C=1NC(=NC1)C1NCC(C1)C#N)=O | InChI=1S/C40H42N8O3.3ClH/c1-23(2)35(47-39(50)51-3)38(49)48-22-40(12-13-40)17-34(48)37-44-20-32(46-37)26-6-4-25(5-7-26)27-8-9-29-16-30(11-10-28(29)15-27)33-21-43-36(45-33)31-14-24(18-41)19-42-31;;;/h4-11,15-16,20-21,23-24,31,34-35,42H,12-14,17,19,22H2,1-3H3,(H,43,45)(H,44,46)(H,47,50);3*1H
